### PR TITLE
chore(Geometry/Manifold): remove "easy" cases of defeq abuse

### PR DESCRIPTION
**Pull request by grunweg**
Remove a dozen uses of the `backward.isDefeq.respectTransparency` option in differential geometry.
- very few options are superfluous after the recent `mfderiv` change
- make `chartAt_self_eq` simp; this fixes a few more cases automatically
- using `NormedSpace.fromTangentSpace` and `mvfderiv` allows fixing a few options in `VectorBundle/Riemannian`
- a few proofs simply needed to be slightly more careful, and then also worked without the defeq abuse

---

- [x] depends on: #42031
- [x] depends on: #42038

Best reviewed commit by commit: the individual commit messages contain slightly more detail.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Riemannian/Basic.lean [hunk 1]
```diff
@@ -126,17 +126,17 @@ noncomputable def riemannianMetricVectorSpace :
 noncomputable instance : RiemannianBundle (fun (x : F) ↦ TangentSpace% x) :=
   ⟨(riemannianMetricVectorSpace F).toRiemannianMetric⟩
 
-set_option backward.isDefEq.respectTransparency false in
 lemma norm_tangentSpace_vectorSpace {x : F} {v : TangentSpace% x} :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Riemannian/Basic.lean:129]: I'm open to renaming the lemmas according to their new statement - let me know if you prefer me to do it in this PR (or split this into a separate PR).

**Comment by sgouezel** [comment]
I agree it's a good idea to make `chartAt_self_eq` a simp lemma (or at least in `mfld_simps`).

**Comment by grunweg** [comment]
Since the last commits (a month ago), chartAt_self_eq is now a simp lemma.
I just merged master again (and fixed CI): this PR is ready for review.

File: Mathlib/Geometry/Manifold/Riemannian/Basic.lean [hunk 2]
```diff
@@ -238,19 +238,18 @@ attribute [local instance] normedSpaceTangentSpaceVectorSpace
 
 variable (I)
 
-set_option backward.isDefEq.respectTransparency false in
 lemma eventually_norm_mfderiv_extChartAt_lt (x : M) :
-    ∃ C > 0, ∀ᶠ y in 𝓝 x, ‖mfderiv% (extChartAt I x) y‖ < C := by
+    ∃ C > 0, ∀ᶠ y in 𝓝 x, ‖d% (extChartAt I x) y‖ < C := by
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Riemannian/Basic.lean]: I don't think this change and the next change are good for now, because you're considering `mvfderiv : TangentSpace I M x -> E`, while the next lemmas deal with `mfderiv : TangentSpace I E x -> TangentSpace I M y`, while the lemmas should be about a map and its inverse. Once we have `vmfderiv` and we use it in the next lemmas, then I agree it will be a good change, but I would postpone it until then.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Riemannian/Basic.lean]: Fair! I've reverted them, and added a TODO to revisit it when mathlib has mvfderiv.

File: Mathlib/Geometry/Manifold/Riemannian/Basic.lean [hunk 3]
```diff
@@ -411,7 +411,7 @@ lemma setOfPred_riemannianEDist_lt_subset_nhds [RegularSpace M] {x : M} {s : Set
   rcases eventually_enorm_mfderiv_extChartAt_lt I x with ⟨C, C_pos, hC⟩
   -- let `u` be a closed neighborhood, inside `s`, with the derivative control
   obtain ⟨u, u_mem, u_closed, us, hu, uc⟩ : ∃ u ∈ 𝓝 x, IsClosed u ∧ u ⊆ s
-      ∧ u ⊆ {y | ‖mfderiv% (extChartAt I x) y‖ₑ < C} ∧ u ⊆ (extChartAt I x).source := by
+      ∧ u ⊆ {y | ‖d% (extChartAt I x) y‖ₑ < C} ∧ u ⊆ (extChartAt I x).source := by
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Riemannian/Basic.lean]: revert this one also?

**Review by sgouezel — COMMENTED** [review]
bors d+

File: Mathlib/Geometry/Manifold/Riemannian/Basic.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Riemannian/Basic.lean]: Sure, I can also do that. Reverted.

**Comment by grunweg** [comment]
Thanks for the review!
bors merge
